US07232832B2
b) 8-Ethynyl-2-methoxy-[1,5]naphthyridine
A solution of 2-Methoxy-8-trimethylsilanylethynyl-[1,5] naphthyridine in methanol (80 mL) was treated with potassium carbonate (4.49 g, 32 mmole) and stirred 1.5 hrs. The reaction mixture was concentrated to dryness, redissolved in ethyl acetate, and partitioned with brine. The biphasic mixture was filtered to facilitate separation. Organic layer was dried over sodium sulfate, filtered, concentrated and chromatographed in 1:1 ethyl acetate:hexane to give the product as a cream colored solid. δH (CDCl3, 400 MHz), 8.73 (d, J=4Hz, 1 H), 8.20 (d, J=9 Hz, 1 H), 7.68 (d, J=4 Hz, 1H), 7.16 (d, J=9 Hz, 1 H), 4.15 (s, 3H), 3.67 (s, 1H).

reactant | 2-Methoxy-8-trimethylsilanylethynyl-[1,5] naphthyridine | COC1=NC2=C(C=CN=C2C=C1)C#C[Si](C)(C)C | C14H16N2OSi
reactant | potassium carbonate | 32 mmole, 4.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 80 mL | CO | CH4O
product | 8-Ethynyl-2-methoxy-[1,5]naphthyridine | C(#C)C=1C=CN=C2C=CC(=NC12)OC | C11H8N2O
